US07842689B2
Preparation of 3-phenylmorpholin-4-ol
Activated MnO2 (0.65 g, 7.41 mmol) was added to a solution of N-hydroxymorpholine (0.25 g, 2.47 mmol) in dichloromethane (15 mL) at 0° C. and the mixture was stirred for 1 h. The reaction mixture was filtered through a pad of Celite™ and Na2SO4. The filtrate was added dropwise to a solution of phenylmagnesium chloride (2.0 M in tetrahydrofuran, 2.47 mL, 4.94 mmol) at −10° C. The reaction mixture was stirred at 0° C. for 0.5 h and then saturated aqueous ammonium chloride solution (15 mL) and dichloromethane (15 mL) were added. The aqueous phase was separated and extracted with dichloromethane (2×20 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. The crude product was subjected to flash chromatography on SiO2 eluting with 25% diethyl ether in hexanes to give the title compound (0.045 g, 11%) as a white crystalline solid.

reactant | N-hydroxymorpholine | 2.47 mmol, 0.25 g | ON1CCOCC1 | C4H9NO2
reactant | phenylmagnesium chloride | 4.94 mmol, 2.0 M, 2.47 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 15 mL | [Cl-].[NH4+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 7.41 mmol, 0.65 g | O=[Mn]=O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-phenylmorpholin-4-ol | 0.045 g, 11% | C1(=CC=CC=C1)C1N(CCOC1)O | C10H13NO2
